US06369078B1
1-(tert-Butoxycarbonyl)-6-methyl-2-n-pentyl-1,2,3,4-tetrahydropyridine
To a stirred solution of 1-(tert-Butoxycarbonyl)-4-chloro-6-methyl-2-n-pentyl-1,2-dihydropyridine (3.48 g, 11.61 mmol) in 220 mL of MeOH at 0° C. was added of lithium carbonate 0.857 g, 11.61 mmol) followed by 5% Pd/C. The mixture was placed under a positive pressure of hydrogen gas from a balloon, and the reaction progress was monitored by removing aliquots with a syringe, concentrating the aliquot in vacuo, and examining its 1H NMR spectrum. Upon completion, the mixture was filtered through Celite and evaporated. The residue was dissolved in ether (100 mL) and water (50 mL) was added, and the aqueous phase was extracted twice with ether. The combined organic extracts were washed with 1M NaOH and brine. The organic phase was dried with potassium carbonate, filtered through Celite, and concentrated in vacuo to give the crude product. Purification by column chromatography (silica gel, 5% EtOAc in hexanes) afforded 3.04 g (98%) of the product which was homogeneous by TLC analysis. 1H NMR (300 MHz) d 4.86 (br s, 1 H), 4.39-4.31 (m, 1 H), 2.02 (s, 3 H), 1.98-1.92 (m, 2 H), 1.91-1.28 (m, 21 H), 0.9-0.85 (t, 3 H); 13C NMR (75 MHz) 153.8 (s), 132.5 (s), 110.9 (s), 79.9 (s), 51.9 (s), 31.7 (s), 29.4 (s), 28.3 (s), 26.0 (s), 25.8 (s), 23.1 (s), 22.6 (s), 19.5 (s), 13.9 (s) ppm. FT-IR (neat) 2956, 2927, 2856, 1693, 1658, 1454, 1349, 1253, 1169, 1124, 1072 cm−1.

reactant | 1-(tert-Butoxycarbonyl)-4-chloro-6-methyl-2-n-pentyl-1,2-dihydropyridine | 11.61 mmol, 3.48 g | C(C)(C)(C)OC(=O)N1C(C=C(C=C1C)Cl)CCCCC | C16H26ClNO2
reactant | lithium carbonate | 11.61 mmol, 0.857 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 220 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1-(tert-Butoxycarbonyl)-6-methyl-2-n-pentyl-1,2,3,4-tetrahydropyridine | 3.04 g, 98% | C(C)(C)(C)OC(=O)N1C(CCC=C1C)CCCCC | C16H29NO2
